US05266570
N-(1-[2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-3-(3-pyridyl)propionamide dihydrochloride
To a stirred solution of N-(1-[2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-trans-3-(3-pyridyl)propenamide (170 mg, 0.36 mmol) in ethanol (5 mL) was added 10% palladium on carbon (17 mg). This mixture was hydrogenated at 1 atmospheric pressure for 18 h. The reaction was filtered through diatomaceous earth. The filtrate was concentrated and the resulting residue was chromatographed over silica gel (eluant: 95:5 methylene chloride:methanol) to give a white foam. This material was dissolved in a cold (ice bath) solution of ether:chloroform (3:1, v/v, 15 mL) and treated with gaseous hydrochloric acid to afford the title compound as a white solid (100 mg, 52%), mp 220.0°-3.0° C.; MS(CI): 472 (M+H); NMR (300 MHz,DMSO-d6): 1.65-2.06(m, 4H), 2.46(t, 1.70H, J=7.5 Hz), 2.59(t, 0.3H, J=7.5 Hz), 2.73(m, 2H), 2.87-3.03(m, 2H), 3.17-3.66(m, 4H), 3.78(br m, 0.85H), 3.96(m, 0.15H), 4.18-4.40(m, 2H), 4.48(s, 1H), 6.95-7.10(m, 3H), 7.27-7.42(m, 3H), 7.48(s, 1H), 7.59-7.71(m, 1H), 8.02(d, 1H, J=7.5 Hz), 8.11 (d, 1H, J=7.2 Hz), 8.35(br s, ~0.15H), 8.54-8.65(m, 2H), 8.68(br s, ~0.85H), 9.70(br s, 0.15H), 9.96-10.08(br s, 0.85H).

reactant | N-(1-[2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-trans-3-(3-pyridyl)propenamide | 0.36 mmol, 170 mg | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)CN3CCC(CC3)NC(\C=C\C=3C=NC=CC3)=O | C29H28ClN3O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 17 mg | [Pd] | Pd
solvent | ether chloroform | 15 mL | CCOCC.C(Cl)(Cl)Cl
product | N-(1-[2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-3-(3-pyridyl)propionamide dihydrochloride | 100 mg, 52% | Cl.Cl.ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)CN3CCC(CC3)NC(CCC=3C=NC=CC3)=O | InChI=1S/C29H30ClN3O.2ClH/c30-21-8-9-24-25-17-29(27(24)16-21,26-6-2-1-5-23(25)26)19-33-14-11-22(12-15-33)32-28(34)10-7-20-4-3-13-31-18-20;;/h1-6,8-9,13,16,18,22,25H,7,10-12,14-15,17,19H2,(H,32,34);2*1H
